US05332837
Preparation of (S)-N-[2-[[5-(acetyloxy)-1-(chloromethyl)-1,6-dihydro-8-methylbenzo [1,2-b: 4,3-b']dipyrrol-3(2H)-yl]carbonyl]-1H-indol-5-yl-1H-Indole-2-carboxamide; Cpd #1
15 mg (0.028 mmol) of (S)-N-[2-[[1-(chloromethyl)-1,6-dihydro-5-hydroxy-8-methylbenzo[1,2-b:4,3-b']dipyrrol-3(2H)-yl]carbonyl]-1H-indol-5-yl]-1H-Indole-2-carboxamide is dissolved in 2 ml of dry pyridine at 5° C., degassed with nitrogen and treated with 0.005 ml of acetyl chloride. After 30 min. at 5° C., the solution is warmed to room temperature, quenched with 1 ml of water, diluted with 50 ml of ethyl acetate, and washed with two 20 ml portions of 1:1 brine/1N hydrochloric acid, and then brine. The solution is dried with sodium sulfate, filtered, adsorbed on 1 g of Celite™, and flash chromatographed on 10 g of silica gel, eluting with 50% ethyl acetate in hexane to give in fractions (25 ml) 6-12 the title compound as a solid.

reactant | (S)-N-[2-[[1-(chloromethyl)-1,6-dihydro-5-hydroxy-8-methylbenzo[1,2-b:4,3-b']dipyrrol-3(2H)-yl]carbonyl]-1H-indol-5-yl]-1H-Indole-2-carboxamide | 0.028 mmol, 15 mg | ClC[C@H]1C2=C(N(C1)C(=O)C=1NC3=CC=C(C=C3C1)NC(=O)C=1NC3=CC=CC=C3C1)C=C(C=1NC=C(C12)C)O | C30H24ClN5O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-[[5-(acetyloxy)-1-(chloromethyl)-1,6-dihydro-8-methylbenzo [1,2-b: 4,3-b']dipyrrol-3(2H)-yl]carbonyl]-1H-indol-5-yl-1H-Indole-2-carboxamide | C(C)(=O)OC1=CC=2N(CC(C2C2=C1NC=C2C)CCl)C(=O)C=2NC1=CC=C(C=C1C2)N2C(=CC1=CC=CC=C21)C(=O)N | C32H26ClN5O4
